US08420821B2
Ethyl 2-(5-Bromo-2-fluoro-4-methoxybenzoyl)-3-((S)-1-hydroxymethyl-2-methylpropylamino)acrylate (19.5 g) was dissolved in DMF (50 mL), and potassium carbonate (8.32 g) was added. After stirring at 45° C. for 8 hr, the completion of the reaction was confirmed by HPLC. Toluene (100 mL) and 5% brine (100 mL) were added to the reaction mixture, and after stirring, the toluene layer was separated. The toluene layer was washed 3 times with 10% brine (100 mL). After washing, toluene was evaporated under reduced pressure. Toluene (50 mL) was added to the concentrate residue, and the mixture was concentrated again under reduced pressure. The obtained crude ethyl 6-bromo-7-methoxy-1-((S)-1-hydroxymethyl-2-methylpropyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate (17.4 g) was directly used in the next step.

reactant | Ethyl 2-(5-Bromo-2-fluoro-4-methoxybenzoyl)-3-((S)-1-hydroxymethyl-2-methylpropylamino)acrylate | 19.5 g | BrC=1C(=CC(=C(C(=O)C(C(=O)OCC)=CN[C@@H](C(C)C)CO)C1)F)OC | C18H23BrFNO5
reactant | potassium carbonate | 8.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
product | ethyl 6-bromo-7-methoxy-1-((S)-1-hydroxymethyl-2-methylpropyl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 17.4 g | BrC=1C=C2C(C(=CN(C2=CC1OC)[C@@H](C(C)C)CO)C(=O)OCC)=O | C18H22BrNO5
